US07776896B2
A solution of 1H-tetrazole-5-pentanenitrile (30 g, 198 mmol) in a mixture of methylene chloride (200 mL) and triethylamine (30 mL, 218 mmol) was stirred as trityl chloride (61 g, 218 mmol) was added. After 16 h, the reaction was treated with an aqueous solution of sodium bicarbonate and extracted with methylene chloride. The combined organic layers were dried and concentrated. The residue was dissolved in ether and hexane was added. The resulting solid was isolated by filtration to give 1-(triphenylmethyl)-1H-tetrazole-5-pentanenitrile as a white solid.

reactant | 1H-tetrazole-5-pentanenitrile | 198 mmol, 30 g | N1N=NN=C1CCCCC#N | C6H9N5
reactant | triethylamine | 218 mmol, 30 mL | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 218 mmol, 61 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-(triphenylmethyl)-1H-tetrazole-5-pentanenitrile | C1(=CC=CC=C1)C(N1N=NN=C1CCCCC#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H23N5
